US04585774
8.28 Grams of potassium carbonate was dissolved in 50 ml of water-acetone (1:2), then 13.6 g of o-carbamoylaniline was added thereto. Under ice-cooled condition, an acetone solution of 34.4 g of [4-(3,4-dimethoxybenzoyl)-1-piperazinyl]acetyl chloride was added dropwise to the said mixture, then the reaction was carried out at a room temperature for 3 hours. Acetone was removed by distillation, the residue obtained was extracted with chloroform and the extract was washed with water, dried then chloroform was removed by distillation. The residue obtained was purified by a silica gel column chromatography, the product obtained was converted into a hydrochloride by adding hydrochloric acid-ethanol, recrystallized from water-acetone to obtain 16 g of o-carbamoyl-α-[4-(3,4-dimethoxybenzoyl)-1-piperazinyl]acetanilide monohydrochloride monohydrate in the form of colorless needle-like crystals. Melting point: 122.0°-125.0° C. (decomposed).

reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | o-carbamoylaniline | 13.6 g | C(N)(=O)C1=C(N)C=CC=C1 | C7H8N2O
reactant | [4-(3,4-dimethoxybenzoyl)-1-piperazinyl]acetyl chloride | 34.4 g | COC=1C=C(C(=O)N2CCN(CC2)CC(=O)Cl)C=CC1OC | C15H19ClN2O4
reactant | hydrochloride | Cl | ClH
reactant | hydrochloric acid ethanol | Cl.C(C)O
solvent | water acetone | 50 ml | O.CC(=O)C
solvent | acetone | CC(=O)C | C3H6O
product | o-carbamoyl-α-[4-(3,4-dimethoxybenzoyl)-1-piperazinyl]acetanilide monohydrochloride monohydrate | 16 g | O.Cl.C(N)(=O)C1=C(NC(CN2CCN(CC2)C(C2=CC(=C(C=C2)OC)OC)=O)=O)C=CC=C1 | InChI=1S/C22H26N4O5.ClH.H2O/c1-30-18-8-7-15(13-19(18)31-2)22(29)26-11-9-25(10-12-26)14-20(27)24-17-6-4-3-5-16(17)21(23)28;;/h3-8,13H,9-12,14H2,1-2H3,(H2,23,28)(H,24,27);1H;1H2
